US07902226B2
4-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidin-2-one
4-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidin-2-one (4.16 g, 12.1 mmol) was dissolved in dimethylformamide (50 ml). Under a nitrogen atmosphere and at room temperature, 60% oily sodium hydride (580 mg, 14.5 mmol) was added thereto and stirred for 10 minutes, and then ethyl iodide (4.87 ml, 60.5 mmol) was added dropwise. After completion of dripping, the reaction suspension was stirred at room temperature for 15 hours. After adding a saturated aqueous ammonium chloride solution (150 ml) to the reaction suspension while stirring and cooling with ice, extraction with ethyl acetate (150 ml×2) was performed. The combined organic layer was then washed with water (150 ml×2) and saturated saline solution (150 ml) in that order, and then dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, the residue obtained was applied to a silica gel chromatography, and 4.56 g (quantitative) of the title compound was obtained in the form of a colorless oily substance from an n-hexane:ethyl acetate=1:2 eluate.

reactant | 4-(R)-[1-(tert-butoxycarbonylamino)cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidin-2-one | 12.1 mmol, 4.16 g | C(C)(C)(C)OC(=O)NC1(CC1)[C@@H]1CC(N(C1)[C@@H](C)C1=CC=CC=C1)=O | C20H28N2O3
reactant | sodium hydride | 14.5 mmol, 580 mg | [H-].[Na+]
reactant | ethyl iodide | 60.5 mmol, 4.87 ml | C(C)I | C2H5I
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 4-(R)-[1-[N-(tert-butoxycarbonyl)-N-(ethyl)amino]cyclopropyl]-1-[1-(S)-phenylethyl]pyrrolidin-2-one | C(C)(C)(C)OC(=O)N(CC)C1(CC1)[C@@H]1CC(N(C1)[C@@H](C)C1=CC=CC=C1)=O | C22H32N2O3
